US07868001B2
3-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-5-(2-methoxyethoxy)benzonitrile (10 mmol) in 100 ml MeOH was added Pd/C(1 mmol) and stirred at room temperature for 4 h. Pd-C was removed and the filtrate was concentrated to provide 3-(imidazo[1,2-b]pyridazin-2-yl)-5-(2-methoxyethoxy)benzonitrile (98.9%).

reactant | 3-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-5-(2-methoxyethoxy)benzonitrile | 10 mmol | ClC=1C=CC=2N(N1)C=C(N2)C=2C=C(C#N)C=C(C2)OCCOC | C16H13ClN4O2
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Pd/C | 1 mmol | [Pd] | Pd
product | 3-(imidazo[1,2-b]pyridazin-2-yl)-5-(2-methoxyethoxy)benzonitrile | 98.9% | N=1C(=CN2N=CC=CC21)C=2C=C(C#N)C=C(C2)OCCOC | C16H14N4O2
